US09326973B2
NaH (60%, 2.2 equiv) was added to a cold (0° C.) stirred solution of 4,4-difluoro-1-hydroxycyclohexanecarboxylic acid (1 equiv) in THF (2 mL) and the mixture was allowed to warm rt (30 min). Then neat dimethyl sulfate (2.4 equiv) was added at 0° C. and the mixture was allowed to warm rt and stirred at rt overnight. Excess Me2SO4 was quenched with TEA and the reaction mixture was acidified with 1 N HCl, extracted with ether to afford methyl 4,4-difluoro-1-methoxycyclohexanecarboxylate which was saponified (1 N NaOH, THF-MeOH) to afford Cap-10 as a beige semi-solid. 1H NMR (400 MHz, CHLOROFORM-d) δ 3.36 (s, 3H), 2.17-1.98 (m, 8H).

reactant | NaH | 2.2 equiv | [H-].[Na+]
reactant | 4,4-difluoro-1-hydroxycyclohexanecarboxylic acid | 1 equiv | FC1(CCC(CC1)(C(=O)O)O)F | C7H10F2O3
reactant | dimethyl sulfate | 2.4 equiv | S(=O)(=O)(OC)OC | C2H6O4S
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | methyl 4,4-difluoro-1-methoxycyclohexanecarboxylate | FC1(CCC(CC1)(C(=O)OC)OC)F | C9H14F2O3
